US06107307
A solution of 1 equivalent of lithium diisopropylamide (15.5 mMol in tetrahydrofuran) is added via cannula to a solution of 1 equivalent of 1-phenylsulfonyl-1H-indole in tetrahydrofuran at -78° C. The reaction mixture is stirred at this temperature for 1.5 hours, warmed to room temperature for 1 hour and then cooled again to -78° C. To this solution is then added a solution of 1.02 equivalents of 3-tropanone in tetrahydrofuran and the resulting mixture is allowed to warm to room temperature over 18 hours. The reaction mixture is then partitioned between saturated aqueous sodium bicarbonate and diethyl ether. The phases are separated and the organic phase washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue is subjected to silica gel chromatography. Fractions shown to contain product are combined and concentrated under reduced pressure to provide 3-hydroxy-3-(1-phenylsulfonylindol-2-yl)-8-methyl-8-azabicyclo-[3.2.1]octane.

reactant | lithium diisopropylamide | 15.5 mMol, 1 equivalent | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-phenylsulfonyl-1H-indole | 1 equivalent | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C14H11NO2S
reactant | 3-tropanone | 1.02 equivalents | [C@H]12CC(C[C@H](CC1)N2C)=O | C8H13NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-hydroxy-3-(1-phenylsulfonylindol-2-yl)-8-methyl-8-azabicyclo-[3.2.1]octane | OC1(CC2CCC(C1)N2C)C=2N(C1=CC=CC=C1C2)S(=O)(=O)C2=CC=CC=C2 | C22H24N2O3S
